US06498169B1
Synthesis of 4-[N-(4-Methoxyphenyl)-N-[[2-(3,4,5-trimethoxypheny)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (1.56 g) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (1.08 g) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a trihydrochloride which gave the title compound as yellow powder.

reactant | 4-(p-Anisidino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 1.56 g | COC1=CC=C(C=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O4
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 1.08 g | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(4-Methoxyphenyl)-N-[[2-(3,4,5-trimethoxypheny)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.COC1=CC=C(C=C1)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O7.3ClH/c1-47-34-10-8-32(9-11-34)46(27-29-13-17-44-36(21-29)31-24-39(50-4)42(53-7)40(25-31)51-5)33-14-18-45(19-15-33)26-28-12-16-43-35(20-28)30-22-37(48-2)41(52-6)38(23-30)49-3;;;/h8-13,16-17,20-25,33H,14-15,18-19,26-27H2,1-7H3;3*1H
